US04963590
N,N-diethyl-5-chloro-2,3-dihydroxybenzenesulfonamide
To a solution containing 0.7 g of N,N-diethyl-5-chloro-3,4-dimethoxybenzenesulfonamide in 10 ml of dichloromethane 9.0 ml of 1 molar BBr3 in dichloromethane was added. The solution was stirred overnight at room temperature. Water and hydrochloric acid were added and the mixture was extracted with dichloromethane. The solvent was evaporated. Yield 0.3 g (47%), m.p. 62°-64° C.

reactant | N,N-diethyl-5-chloro-3,4-dimethoxybenzenesulfonamide | 0.7 g | C(C)N(S(=O)(=O)C1=CC(=C(C(=C1)Cl)OC)OC)CC | C12H18ClNO4S
reactant | BBr3 | 1 molar | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N,N-diethyl-5-chloro-2,3-dihydroxybenzenesulfonamide | C(C)N(S(=O)(=O)C1=C(C(=CC(=C1)Cl)O)O)CC | C10H14ClNO4S
